US05210193
1-Ethyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(1H-pyrrol-1-ylmethyl)-1-piperazinyl]-3-quinolinecarboxylic acid
A 1 g portion of 2-(1H-pyrrol-1-ylmethyl)piperazine and 0.76 g of 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid were heated at 70°-75° C. in a sealed pressure bottle, filled with argon, for 18 hours, then ether was added and the solid collected, washed with ether and purified by chromatography, giving 595 mg of the desired product, mp 185°-188° C.

reactant | 2-(1H-pyrrol-1-ylmethyl)piperazine | N1(C=CC=C1)CC1NCCNC1 | C9H15N3
reactant | 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.76 g | C(C)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C12H9F2NO3
solvent | ether | CCOCC | C4H10O
product | 1-Ethyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(1H-pyrrol-1-ylmethyl)-1-piperazinyl]-3-quinolinecarboxylic acid | 595 mg | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)CN1C=CC=C1)F)=O)C(=O)O | C21H23FN4O3
